US07652032B2
5-acetyl-4,7-dimethoxy-6-benzofuranyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 5-acetyl-4,7-dimethoxy-6-hydroxybenzofuran, the desired product is obtained and is directly used in the following deprotection step without prior purification.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 5-acetyl-4,7-dimethoxy-6-hydroxybenzofuran | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)O | C12H12O5
product | 5-acetyl-4,7-dimethoxy-6-benzofuranyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C3=C(C=CO3)C(=C2C(C)=O)OC)OC)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H26O11S
